US07550474B2
j. {6-Cyano-3-[2,2-difluoro-2-(5-methyl-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester
A mixture of 2,2-Difluoro-2-(5-methyl-pyridin-2-yl)-ethylamine (1.85 g, 10.76 mmol, 2×) and (6-Cyano-2,3-difluoro-phenyl)-acetic acid ethyl ester (1.2 g, 5.33 mmol), prepared as described in Example 2f, was dissolved into DMSO (3 mL) and heated to 90° C. under argon. After 20 h, the reaction was partitioned between EtOAc (50 mL) and H2O (50 mL). The aqueous phase was re-extracted with EtOAc (30 mL) and the combined organic phase dried over Na2SO4 and concentrated to afford a yellow oil. Purification via flash chromatography (20% EtOAc/hexanes) afforded the product as a clear oil (968 mg, 2.57 mmol, 48% yield). 1H NMR (300 Hz, CDCl3) δ 8.49 (s, 1H), 7.59 (m, 2H), 7.30 (m, 1H), 6.79 (t, J=8.2 Hz, 1H), 4.13 (m, 4H), 3.80 (d, J=2.0 Hz, 2H), 2.41 (s, 3H), 1.27 (t, J=6.9 Hz, 3H); LC/MS (m/z) [M+1]+ 378.0 (calculated for C19H19F3N3O2, 378.4).

reactant | 2,2-Difluoro-2-(5-methyl-pyridin-2-yl)-ethylamine | 10.76 mmol, 1.85 g | FC(CN)(C1=NC=C(C=C1)C)F | C8H10F2N2
reactant | (6-Cyano-2,3-difluoro-phenyl)-acetic acid ethyl ester | 5.33 mmol, 1.2 g | C(C)OC(CC1=C(C(=CC=C1C#N)F)F)=O | C11H9F2NO2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | {6-Cyano-3-[2,2-difluoro-2-(5-methyl-pyridin-2-yl)-ethylamino]-2-fluoro-phenyl}-acetic Acid Ethyl Ester | 2.57 mmol, 968 mg, 48% yield | C(C)OC(CC1=C(C(=CC=C1C#N)NCC(C1=NC=C(C=C1)C)(F)F)F)=O | C19H18F3N3O2
